US06974806B2
Synthesis of (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoic acid
A solution of ethyl (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoate (200 mg) in a mixture of ethanol (5 ml) and THF (2 ml) was combined with a 1 N aqueous solution of sodium hydroxide (3 ml), and stirred at room temperature for 4 hours. After 1 N hydrochloric acid (10 ml) was added, the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and then concentrated. The resultant crude crystal was recrystallized from THF-ethyl acetate to obtain the title compound as a colorless crystal (137 mg, yield: 70%). Melting point: 191-194° C.

reactant | ethyl (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoate | 200 mg | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)OCC)C | C30H22Cl2F3NO5
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoic acid | 137 mg, yield: 70% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)O)C | C28H18Cl2F3NO5
